US09085555B2
B. (2S,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To an ice-cooled solution of (2S,3S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.98 g, 2.64 mmol) in dry pyridine (13 mL) was added methanesulfonyl chloride (0.31 mL, 3.96 mmol). The reaction was stirred at 0° C. for 2 h and then at RT for 72 h. The volatiles were evaporated in vacuo and the residue was partitioned between water and EtOAc. The aqueous layer was repeatedly extracted with EtOAc, the combined organics were washed with 0.1N HCl and brine, dried (phase separator) and concentrated in vacuo to afford the title compound. Brown oil. MS (LC-MS): 451 [M+H]+, 395 [MH−tBu]+, 351 [MH−Boc]+; tR (HPLC conditions c): 5.08 min. The material thus obtained was used without any purification.

reactant | (2S,3S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.64 mmol, 0.98 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H22ClFN2O4
reactant | methanesulfonyl chloride | 3.96 mmol, 0.31 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
product | (2S,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)OS(=O)(=O)C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClFN2O6S
